US05859007
To a stirring solution of 160 mg (1.20 mmol) of 3-Methyl-1H-pyrazolo[3,4-b]pyridine, prepared as in Part A, in 5 mL of acetonitrile at 0° C. is added 167 μL (1.20 mmol) of Et3N and 145 mg (1.20 mmol) of DMAP. The resulting solution is stirred 2 min., then a solution of 315 mg (1.44 mmol, 1.2 equiv) of di-tert-butyl dicarbonate in 1 mL of acetonitrile is added. The resulting solution is warmed to RT and stirred 30 min. The reaction mixture is poured into 10 mL of EtOAc and extracted with brine (1×10 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 253 mg of 3-Methyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine as a pale yellow oil: 1H NMR (CDCl3, 400 MHz) δ8.72 (dd, 1H, J=1.5, 4.7), 7.99 (dd, 1H, J=1.5, 8.0), 7.26 (dd, 1H, J=4.7, 8.0), 2.59 (s, 3H), 1.71 (s, 9H).

reactant | 3-Methyl-1H-pyrazolo[3,4-b]pyridine | 1.20 mmol, 160 mg | CC1=NNC2=NC=CC=C21 | C7H7N3
reactant | Et3N | 1.20 mmol, 167 μL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.44 mmol, 315 mg, 1.2 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | DMAP | 1.20 mmol, 145 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 3-Methyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine | 253 mg | CC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H15N3O2
